US06391887B1
6-Fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione
A solution of 6-fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one (100 mg, 0.48 mmol) and Lawesson's reagent (512 mg, 1.26 mmol) in THF (20 ml) is refluxed for 1.5 hours and concentrated by evaporation. Column chromatography of the residue with ethyl acetate-hexane yields 100 mg (93%) of product.

reactant | 6-fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 0.48 mmol, 100 mg | FC1=CC=CC=2C3C(C(NC12)=O)CCC3 | C12H12FNO
reactant | Lawesson's reagent | 1.26 mmol, 512 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 6-Fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione | 100 mg, 93% | FC1=CC=CC=2C3C(C(NC12)=S)CCC3 | C12H12FNS
